US08536187B2
To a solution of 4-(bromomethyl)-N-tert-butyl-2-fluorobenzenesulfonamide (500 mg) in THF/MeOH (1:1, 15 ml) was added NH4OH (4.5 ml). The mixture was stirred at room temperature overnight. The reaction mixture was concentrated and partitioned between EtOAc/H2O and the aq phase was extracted by EtOAc (3×). The organic phase was then combined, washed with brine, dried over Na2SO4 and concentrated to give 4-(aminomethyl)-N-tert-butyl-2-fluorobenzenesulfonamide as a viscous oil, which was used in the next step without further purification.

reactant | 4-(bromomethyl)-N-tert-butyl-2-fluorobenzenesulfonamide | 500 mg | BrCC1=CC(=C(C=C1)S(=O)(=O)NC(C)(C)C)F | C11H15BrFNO2S
reactant | NH4OH | 4.5 ml | [NH4+].[OH-]
solvent | THF MeOH | 15 ml | C1CCOC1.CO
product | 4-(aminomethyl)-N-tert-butyl-2-fluorobenzenesulfonamide | NCC1=CC(=C(C=C1)S(=O)(=O)NC(C)(C)C)F | C11H17FN2O2S
